US07495007B2
Preparation of intermediate E/Z-3-[1-[5-Bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-methylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
In a manner similar to the method described in Example 227c, E/Z-3-[4-Bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester (2.7 g, 5.81 mmol) was reacted with ditert-butyl-dicarbonate (1.5 g, 6.98 mmol) and DMAP (0.07 g, 0.58 mmol) in CH2Cl2 to give title compound as a yellow oil (2.7 g).

reactant | Z-3-[4-Bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester | 5.81 mmol, 2.7 g | COC(C(COC1=C(C=C(C=C1)Br)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)(C)C)=O | C21H19BrClNO4
reactant | ditert-butyl-dicarbonate | 6.98 mmol, 1.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.58 mmol, 0.07 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Z-3-[1-[5-Bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-methylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.7 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Br)OCC(C)(C)C(=O)OC)=O | C26H27BrClNO6
